US04250096
1.4 ml (0.01 mol) of triethylamine, followed by 0.72 g (0.011 mol) of sodium azide, are added to a mixture of 3.12 g (0.01 mol) of 4-(3-nitrophthalimidyl)-benzoic acid and 20 ml of dimethylsulphoxide. The reaction mixture is heated for 6 hours at 50° C. and is then evaporated in vacuo at 80° C.; the residue is stirred with 70 ml of water and the resulting solution is then brought to pH 1 with hydrochloric acid. The product which has precipitated is filtered off with suction, washed with 5 ml of methanol and dried for 24 hours in a drying cabinet at 80° C./100 mm Hg. 2.47 g (80% of theory) of 4-(3-azidophthalimidyl)-benzoic acid are obtained; melting point 300° C. (with decomposition). IR spectrum (KBr): 1790 and 1740 cm-1 (CO--N--CO); 2150 cm-1 (N3).

reactant | triethylamine | 0.01 mol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 0.011 mol, 0.72 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-(3-nitrophthalimidyl)-benzoic acid | 0.01 mol, 3.12 g | [N+](=O)([O-])C1=C2C(C(=O)N(C2=O)C2=CC=C(C(=O)O)C=C2)=CC=C1 | C15H8N2O6
solvent | dimethylsulphoxide | 20 ml | CS(=O)C | C2H6OS
product | 4-(3-azidophthalimidyl)-benzoic acid | 2.47 g, 80% | N(=[N+]=[N-])C1=C2C(C(=O)N(C2=O)C2=CC=C(C(=O)O)C=C2)=CC=C1 | C15H8N4O4
